US07622583B2
To a solution of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid (450 mg, 1.0 mmol) in 3.0 mL CH2Cl2 and DMF (0.02 mL) was added oxalyl chloride (0.110 mL). The mixture was stirred for 2 h and concentrated to dryness provide 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride.

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid | 1.0 mmol, 450 mg | ClC=1C=C(C(=NC1)C(=O)O)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H11Cl2F3N2O5S
reactant | oxalyl chloride | 0.110 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.02 mL | CN(C)C=O | C3H7NO
product | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride | ClC=1C=C(C(=NC1)C(=O)Cl)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10Cl3F3N2O4S
